US04675328
A solution of 2.06 g (6.88 mmol) of 4-(2,3-epoxypropoxy)-4'-nitrobenzophenone in 50 ml of dioxan and 25 ml of water was treated with 1.06 g (6.88 mmol) of 4-phenylpyridine and stirred at 70° C. while adding 1N HCl at a pH less than 8. After stirring at 70° C. for 18 hours the mixture was cooled to 20° C., treated with 300 ml of water and extracted three times with 200 ml of chloroform. The organic phase was dried and concentrated. The residue was recrystallized from acetone. There was obtained 1-[2-hydroxy-3-[p-(p-nitrobenzoyl)phenoxy]propyl]-4-phenylpyridinium chloride in 50% yield, m.p. 240° C.

reactant | 4-(2,3-epoxypropoxy)-4'-nitrobenzophenone | 6.88 mmol, 2.06 g | O1C(COC2=CC=C(C(=O)C3=CC=C(C=C3)[N+](=O)[O-])C=C2)C1 | C16H13NO5
reactant | 4-phenylpyridine | 6.88 mmol, 1.06 g | C1(=CC=CC=C1)C1=CC=NC=C1 | C11H9N
reactant | HCl | 1N | Cl | ClH
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 25 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 1-[2-hydroxy-3-[p-(p-nitrobenzoyl)phenoxy]propyl]-4-phenylpyridinium chloride | 50% yield | [Cl-].OC(C[N+]1=CC=C(C=C1)C1=CC=CC=C1)COC1=CC=C(C=C1)C(C1=CC=C(C=C1)[N+](=O)[O-])=O | InChI=1S/C27H23N2O5.ClH/c30-25(18-28-16-14-21(15-17-28)20-4-2-1-3-5-20)19-34-26-12-8-23(9-13-26)27(31)22-6-10-24(11-7-22)29(32)33;/h1-17,25,30H,18-19H2;1H/q+1;/p-1
